US07932259B2
Synthesis of 2-{1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidin-4-yl}ethanol hydrochloride (Compound 1-074)
To a suspension of 2-{1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-ethanol (6.41 g) in ethanol (51 mL) was added 4 M HCl in ethyl acetate (4.2 mL) under ice-cooling. After removing the solvent, ethyl acetate (26 mL) was added to the residue. The mixture was stirred overnight to afford a white crystal. The crystal was collected by filtration to give the title compound (6.1 g).

reactant | 2-{1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-ethanol | 6.41 g | BrC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(N=C2N2CCC(CC2)CCO)C)C)C | C23H29BrN4O
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 51 mL | C(C)O | C2H6O
solvent | ethyl acetate | 4.2 mL | C(C)(=O)OCC | C4H8O2
product | 2-{1-[7-(4-bromo-2,6-dimethylphenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]piperidin-4-yl}ethanol hydrochloride | 6.1 g | Cl.BrC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(N=C2N2CCC(CC2)CCO)C)C)C | InChI=1S/C23H29BrN4O.ClH/c1-14-11-19(24)12-15(2)21(14)28-13-16(3)20-22(25-17(4)26-23(20)28)27-8-5-18(6-9-27)7-10-29;/h11-13,18,29H,5-10H2,1-4H3;1H
